US04396542
(c) BOC-MeLeu-Ala-Bzl
23.3 ml (18.9 g=157 mMol) pivaloyl chloride and 48 ml (28.9 g=286 mMol) triethylamine are added to a solution of 35 g (143 mMol) BOC-MeLeu-OH in 500 ml chloroform and the mixture stirred for 2 hrs. at room temperature under a nitrogen atmosphere. 30.7 g (171 mMol) H-Ala-Bzl dissolved in 300 ml chloroform are then added and the reaction mixture stirred for a further 2 hrs. at room temperature, again under a nitrogen atmosphere. The product is purified in accordance with the technique of example 1a) to yield the title compound:

reactant | pivaloyl chloride | 157 mMol, 23.3 ml, 18.9 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 286 mMol, 48 ml, 28.9 g | C(C)N(CC)CC | C6H15N
reactant | BOC-MeLeu-OH | 143 mMol, 35 g | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
reactant | H-Ala-Bzl | 171 mMol, 30.7 g | N[C@@H](C)C(=O)CC1=CC=CC=C1 | C10H13NO
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | BOC-MeLeu-Ala-Bzl | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C | C22H34N2O4
